US05273999
Preparation of 3-(2-Carboxyethyl)-4-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]benzenepentanoic Acid
To a solution of 1.93 g (3.23 mmol) of 4-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-3-(3-ethoxy-3-oxopropyl)benzenepentanoic acid ethyl ester from the preceding example, in 30 mL of tetrahydrofuran and 30 mL of water, was added 0.407 g (9.71 mmol) of lithium hydroxide monohydrate and the resulting solution was stirred at room temperature for 46 hr. The reaction mixture was acidified with 60 mL of 3N aqueous sulfuric acid, and worked-up with ethyl acetate in the usual manner. The crude product was purified by flash chromatography on 500 g of silica gel, eluting with hexane-ethyl acetate (1:1) affording 1.07 g (61.0%) of the title compound as a white solid, mp 101°-104° C.

reactant | 4-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-3-(3-ethoxy-3-oxopropyl)benzenepentanoic acid ethyl ester | 3.23 mmol, 1.93 g | C(C)OC(CCCCC1=CC(=C(C=C1)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCC(=O)OCC)=O | C35H48O8
reactant | lithium hydroxide monohydrate | 9.71 mmol, 0.407 g | O.[OH-].[Li+]
reactant | sulfuric acid | 3N, 60 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 3-(2-Carboxyethyl)-4-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]benzenepentanoic Acid | 1.07 g, 61.0% | C(=O)(O)CCC=1C=C(C=CC1OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCCCC(=O)O | C31H40O8
